US07354932B2
Preparation of 2-[4-(5,6,7,8-tetrahydro-quinoxalin-5-ylamino)-butyl]-isoindole-1,3-dione
To a solution of 5,6,7,8-tetrahydroquinoxalin-5-ylamine (313 mg, 2.09 mmol) in CH2Cl2 (20 mL) at room temperature under inert atmosphere was added 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde (227.8 mg, 1.05 mmol) followed by sodium triacetoxyborohydride (444 mg, 2.10 mmol). The reaction mixture was stirred at room temperature for 2 hours. Saturated sodium bicarbonate solution (10 mL) was added and the mixture was extracted with dichloromethane (3×20 mL). The combined organic extracts were washed with brine, dried (MgSO4), filtered and concentrated. The resultant material was purified by column chromatography on silica gel (10:1:0.5 CH2Cl2: MeOH: NH4OH) to provide the product as a clear oil (298 mg, 81%): 1H NMR (CDCl3): δ 1.56-1.66 (m, 2H), 1.70-1.95 (m, 4H), 2.04-2.22 (m, 4H), 2.71-2.85 (m, 2H), 2.87-3.05 (m, 2H), 7.69-7.73 (m, 2H), 7.80-7.85 (m, 2H), 8.34 (br s, 2H).

reactant | 5,6,7,8-tetrahydroquinoxalin-5-ylamine | 2.09 mmol, 313 mg | N1=CC=NC=2C(CCCC12)N | C8H11N3
reactant | 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde | 1.05 mmol, 227.8 mg | O=C1N(C(C2=CC=CC=C12)=O)CCCC=O | C12H11NO3
reactant | sodium triacetoxyborohydride | 2.10 mmol, 444 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(5,6,7,8-tetrahydro-quinoxalin-5-ylamino)-butyl]-isoindole-1,3-dione | 298 mg, 81% | N1=CC=NC=2C(CCCC12)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C20H22N4O2
